US06492400B1
Part C: Preparation of 2-benzyloxycarbonylamino-4-[4-(4-fluorophenyl)methyl-1-piperidinyl]-1-phenyl-butan-3-ol
A solution of 4- (4-fluorophenyl)methyl-piperidine (0.515 g, 2.314 mmoles) and 2-benzyloxycarbonylamino-1-phenyl-3,4-epoxy-butane (0.688 g, 2.314 mmoles) in 5 mL of DMF was stirred for 4 hours at 100° C. and cooled to room temperature. After addition of EtOAc (30 mL), the mixture was washed with water (2×) and brine. The oranic solution was dried over Na2SO4, and evaporated to give an oily residue. It was then purified by passing through a plug of silica gel with elution by EtOAc to give pure product.

reactant | 4- (4-fluorophenyl)methyl-piperidine | 2.314 mmoles, 0.515 g | FC1=CC=C(C=C1)CC1CCNCC1 | C12H16FN
reactant | 2-benzyloxycarbonylamino-1-phenyl-3,4-epoxy-butane | 2.314 mmoles, 0.688 g | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=CC=C1)C1CO1 | C18H19NO3
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-benzyloxycarbonylamino-4-[4-(4-fluorophenyl)methyl-1-piperidinyl]-1-phenyl-butan-3-ol | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=CC=C1)C(CN1CCC(CC1)CC1=CC=C(C=C1)F)O | C30H35FN2O3
